US07745451B2
6-Benzyl-5,6,7,8-tetrahydropyrido[4,3-d]pyrimidin-4(3H)-one
A mixture of ethyl 1-benzyl-4-oxopiperidine-3-carboxylate hydrochloride (50.0 g, 0.168 mol), formamidine acetate (16.2 g, 0.201 mol), 4.37 M of sodium methoxide in methanol (190 mL) and methanol (200 mL, 5 mol) was heated to 85° C. for 16 hour in a 350 ml sealed reaction vessel. The mixture was allowed to cool and reduced in vacuo. The residue was dissolved in 1N NaOH (150 ml) and poured over ice. Glacial acetic acid was added to the mixture until the pH of the mixture was 7 and a tan solid precipitated out. the solid was filtered, washed with water and cold ether, and dried on high vacuum to yield the title compound as a tan solid. (26.2 g, 61.4%).

reactant | ethyl 1-benzyl-4-oxopiperidine-3-carboxylate hydrochloride | 0.168 mol, 50.0 g | Cl.C(C1=CC=CC=C1)N1CC(C(CC1)=O)C(=O)OCC
reactant | formamidine acetate | 0.201 mol, 16.2 g | C(C)(=O)O.C(=N)N
reactant | sodium methoxide | 4.37 M | C[O-].[Na+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | methanol | 190 mL | CO | CH4O
solvent | NaOH | 1N, 150 ml | [OH-].[Na+]
solvent | methanol | 5 mol, 200 mL | CO | CH4O
product | 6-Benzyl-5,6,7,8-tetrahydropyrido[4,3-d]pyrimidin-4(3H)-one | C(C1=CC=CC=C1)N1CC2=C(N=CNC2=O)CC1 | C14H15N3O
